US05292770
N-Methyl-N-(2-(3-chloro-1-methoxyphenyl)ethyl)-1,4-diaminobutane
A mixture comprising 5.00 g of N-methyl-(2-(3-chloro-4-methoxyphenyl)ethylamine, 9.49 g of N-(4-bromobutyl)phthalimide, 4.16 g of anhydrous potassium carbonate and 50 ml of N,N-dimethylformamide was stirred at a room temperature for 14 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate and the ethyl acetate phase was washed with water and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and concentrated, followed by the addition of 50 ml of ethanol and 1.5 ml of hydrazine monohydrate. The obtained mixture was heated under reflux for 2 hours, cooled by allowing to stand and filtered to remove insoluble matter. The filtrate was distilled to obtain 3.16 g of the title compound as a colorless oil (yield: 47%).

reactant | 2-(3-chloro-4-methoxyphenyl)ethylamine | ClC=1C=C(C=CC1OC)CCN | C9H12ClNO
reactant | N-(4-bromobutyl)phthalimide | 9.49 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | potassium carbonate | 4.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-Methyl-N-(2-(3-chloro-1-methoxyphenyl)ethyl)-1,4-diaminobutane | 3.16 g, yield: 47% | CN(CCCCN)CCC1(CC(=CC=C1)Cl)OC | C14H25ClN2O
